US07687495B2
b) 1-[(2R,4R,5R)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-propan-2-one
To a stirred solution of 0.79 g of N-methoxy-2-[(2R,4R,5R)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-N-methyl-acetamide in 10 ml of tetrahydrofuran are added 1.3 ml of a 3M solution of methyl magnesium bromide in tetrahydrofuran at 0° C. The reaction mixture is stirred for 1 hour, diluted with an aqueous solution of 1N potassium hydrogen sulfate, extracted with tert-butyl methyl ether. The organic phases are combined and dried over sodium sulfate. The residue is purified by flash chromatography (SiO2 60 F) to afford the title compound as a yellow oil. Rf=0.20 (EtOAc-heptane 1:1); Rt=5.14.

reactant | N-methoxy-2-[(2R,4R,5R)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-N-methyl-acetamide | 0.79 g | CON(C(C[C@@H]1N(C[C@@H]([C@H](C1)C1=CC=C(C=C1)OC)OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)=O)C | C36H47N3O8S
reactant | methyl magnesium bromide | C[Mg]Br
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | potassium hydrogen sulfate | 1N | S(=O)(=O)(O)[O-].[K+]
product | 1-[(2R,4R,5R)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-propan-2-one | COC1=CC=C(C=C1)[C@H]1C[C@@H](N(C[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)CC(C)=O | C35H44N2O7S
